US07829560B2
4′-Fluoro-2′-methyl-biphenyl-3-carboxylic acid {4-[2-(3-dimethylamino-2,2-dimethyl-propylamino)-pyrimidin-4-yloxy]-naphthalen-1-yl}-amide (Compound B314).
Compound is prepared from 4′-fluoro-2′-methyl-biphenyl-3-carboxylic acid [4-(2-methylsulfanyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-amide and N,N,2,2-tetramethyl-1,3-propanediamine according to conditions described in general procedure J. (23 mg). 1H NMR (400 MHz, CDCl3) δ 8.01-8.1 (m, 4H), 7.88 (dd, 1H, J=0.8 and 8 Hz), 7.5-7.65 (m, 5H), 7.26-7.33 (m, 2H), 6.98-7.08 (m, 2H), 6.21 (d, 1H, J=6 Hz), 2.3 (s, 3H), 2.0-2.2 (brm, 10H), 0.6-0.9 (brs, 6H).

reactant | 4′-fluoro-2′-methyl-biphenyl-3-carboxylic acid [4-(2-methylsulfanyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-amide | CSC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)F)C | C29H22FN3O2S
reactant | N,N,2,2-tetramethyl-1,3-propanediamine | CN(CC(CN)(C)C)C | C7H18N2
product | 4′-Fluoro-2′-methyl-biphenyl-3-carboxylic acid {4-[2-(3-dimethylamino-2,2-dimethyl-propylamino)-pyrimidin-4-yloxy]-naphthalen-1-yl}-amide | CN(CC(CNC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)F)C)(C)C)C | C35H36FN5O2
